US08791119B2
To a solution of 3.1 g (7.71 mmol) of 2-(tert-butyloxycarbonyl)-6-chloro-7-(3-cyanophenyl)-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazine-8-carboxylic acid in 20 ml of tetrahydrofuran are added 1.38 g (8.49 mmol) of carbonyl-diimidazole (CAS 530-62-1). After reaction for 2 hours at 60° C., the mixture is cooled and concentrated under reduced pressure. The residue is taken up in 60 ml of water and the product is extracted with dichloromethane. The organic phase is dried over sodium sulfate and the solvent is evaporated off under reduced pressure to give a yellow oil, which is purified by chromatography on a column of 80 g of silica gel, eluting with a mixture of 2% methanol in dichloromethane, to give 3.38 g of tert-butyl 6-chloro-7-(3-cyanophenyl)-8-(1H-imidazol-1-ylcarbonyl)-3,4-dihydropyrrolo[1,2-a]pyrazine-2(1H)-carboxylate in the form of a colourless oil.

reactant | 2-(tert-butyloxycarbonyl)-6-chloro-7-(3-cyanophenyl)-1,2,3,4-tetrahydropyrrolo[1,2-a]pyrazine-8-carboxylic acid | 7.71 mmol, 3.1 g | C(C)(C)(C)OC(=O)N1CC=2N(CC1)C(=C(C2C(=O)O)C2=CC(=CC=C2)C#N)Cl | C20H20ClN3O4
reactant | carbonyl-diimidazole | 8.49 mmol, 1.38 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | tert-butyl 6-chloro-7-(3-cyanophenyl)-8-(1H-imidazol-1-ylcarbonyl)-3,4-dihydropyrrolo[1,2-a]pyrazine-2(1H)-carboxylate | 3.38 g | ClC1=C(C(=C2N1CCN(C2)C(=O)OC(C)(C)C)C(=O)N2C=NC=C2)C2=CC(=CC=C2)C#N | C23H22ClN5O3
